US07709466B2
3-(1-Methyl-1H-pyrazol-4-yl)-2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-1H-indole-5-carboxylic acid (1-cyclopropyl-piperidin-4-yl)-amide
100 mg of 3-(1-methyl-1H-pyrazol-4-yl)-2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-1H-indole-5-carboxylic acid is dissolved in 3 ml of dichloromethane and 139 mg of N-ethylmorpholine and 43.6 mg of TOTU (O-((ethoxycarbonyl)-cyanomehyleneamino)-N,N, N′,N′-tetramethyluroniumtetrafluoro) is added. After 5 minutes 34 mg of 1-cyclopropyl-piperidin-4-ylamine is added. The reaction is stirred for 48 h at RT. The product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 47 mg. LC-MS (ES+) 535 (M+H)+.

reactant | 3-(1-methyl-1H-pyrazol-4-yl)-2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-1H-indole-5-carboxylic acid | 100 mg | CN1N=CC(=C1)C1=C(NC2=CC=C(C=C12)C(=O)O)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C22H16N6O3
reactant | N-ethylmorpholine | 139 mg | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 43.6 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | 1-cyclopropyl-piperidin-4-ylamine | 34 mg | C1(CC1)N1CCC(CC1)N | C8H16N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-(1-Methyl-1H-pyrazol-4-yl)-2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-1H-indole-5-carboxylic acid (1-cyclopropyl-piperidin-4-yl)-amide | C1(CC1)N1CCC(CC1)NC(=O)C=1C=C2C(=C(NC2=CC1)C=1C(NN=C(C1)C1=CC=NC=C1)=O)C=1C=NN(C1)C | C30H30N8O2
